US07202367B2
Preparation of 3.5-dimethylphenyl 4-methoxyphenyl ether
Example 3.1 was repeated, replacing the phenol with 244 mg of 3,5-dimethylphenol (2 mmoles) and the iodobenzene with 655 mg of 4-iodoanisole (2.8 mmoles), the latter being added at the same time as the 3,5-dimethylphenol, and taking the reaction time to 48 hours.

reactant | 3,5-dimethylphenol | 2 mmoles, 244 mg | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 4-iodoanisole | 2.8 mmoles, 655 mg | IC1=CC=C(C=C1)OC | C7H7IO
product | 3.5-dimethylphenyl 4-methoxyphenyl ether | COC1=CC=C(C=C1)OC1=CC(=CC(=C1)C)C | C15H16O2
